US07994316B2
Under a stream of argon, 3.5 ml of a pentane solution containing 5.2 mmol of tert-butyl lithium was slowly added to 15 ml of tetrahydrofuran cooled to −78° C., and 10 ml of tetrahydrofuran in which 0.61 g of 2-bromo-5-phenylpyridine had been dissolved was further added dropwise to this solution. After stirring at −78° C. for 30 minutes, 1.64 g of dichloro(tetramethylethylenediamine)zinc(II) was added thereto and stirred at −78° C. for 10 minutes and then at room temperature for 2 hours. A 35 ml portion of tetrahydrofuran prepared by dissolving 1.00 g of 2-(4-bromophenyl)-4,6-bis(4-tert-butylphenyl)-1,3,5-triazine synthesized by the method of Reference Example 1 and 0.12 g of tetrakis(triphenylphosphine)palladium(0) therein was added to this solution and stirred under heating reflux for 10 hours. The reaction solution was concentrated under a reduced pressure and the thus obtained solid was recrystallized from dichloromethane-methanol. The thus obtained crude product was purified by a silica gel column chromatography (eluting solution hexane:dichloromethane=3:2 to 4:3) and then again recrystallized from dichloromethane-methanol to obtain a white solid of the intended 2,4-bis(4-tert-butylphenyl)-6-[4-(5-phenylpyridin-2-yl)phenyl]-1,3,5-triazine (1.05 g, yield 91%). Its melting point is shown in Table 4. In this case, a distinct point of glass transition was not observed.

reactant | pentane | 3.5 ml | CCCCC | C5H12
reactant | tert-butyl lithium | 5.2 mmol | C(C)(C)(C)[Li]
reactant | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | 2-(4-bromophenyl)-4,6-bis(4-tert-butylphenyl)-1,3,5-triazine | 1.00 g | BrC1=CC=C(C=C1)C1=NC(=NC(=N1)C1=CC=C(C=C1)C(C)(C)C)C1=CC=C(C=C1)C(C)(C)C | C29H30BrN3
reactant | 2-bromo-5-phenylpyridine | 0.61 g | BrC1=NC=C(C=C1)C1=CC=CC=C1 | C11H8BrN
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.12 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2,4-bis(4-tert-butylphenyl)-6-[4-(5-phenylpyridin-2-yl)phenyl]-1,3,5-triazine | 1.05 g, yield 91% | C(C)(C)(C)C1=CC=C(C=C1)C1=NC(=NC(=N1)C1=CC=C(C=C1)C(C)(C)C)C1=CC=C(C=C1)C1=NC=C(C=C1)C1=CC=CC=C1 | C40H38N4
